US06066766
6 mol of a 26% strength by weight phenylmagnesium chloride/THF solution are added dropwise in the course of 4 hours to a boiling solution of 6 mol of 1,4-bromochlorobenzene and 100 mg of Pd(dppf)Cl2 *CH2Cl2 in 600 g of tetrahydrofuran (THF). After completion of the addition, the reaction mixture is refluxed for a further 5 hours. After hydrolysis with 3600 g of 8% strength by weight sulfuric acid, phase separation and subsequent removal of the solvent by distillation, crude 4-chlorobiphenyl is obtained, which is purified by fractional distillation in vacuo. Yield 1080 g (96%), purity of the product □ 99.7% (a/a GC).

reactant | phenylmagnesium chloride THF | C1(=CC=CC=C1)[Mg]Cl.O1CCCC1
reactant | 1,4-bromochlorobenzene | 6 mol | C1=CC(=CC=C1Cl)Br | C6H4BrCl
solvent | tetrahydrofuran | 600 g | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 100 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-chlorobiphenyl | ClC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Cl
